US07071182B2
N-{1-[2-(cyclopentylamino)ethyl]-1H-indazol-6-yl}-2-(4-phenoxyphenyl)acetamide
A mixture of N-[1-(2-oxoethyl)-1H-indazol-6-yl]-2-(4-phenoxyphenyl)acetamide (20 mg, 0.05 mmol) and cyclopentylamine (10 μL, 0.10 mmol) in THF (1 mL) was stirred at room temperature for 0.5 hours after which NaCNBH3 (0.104 mL, 0.010 mmol, 1 M in THF) was added and the mixture was stirred for an additional 18 hours. The mixture was diluted with ethyl acetate (2 mL), washed with H2O (1 mL), concentrated under reduced pressure and purified by reverse phase-HPLC to provide the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.5 (m, 6 H), 1.9 (m, 2 H), 2.9 (m, 1 H), 3.4 (m, 2 H), 3.8 (m, 2 H), 4.6 (t, 2 H), 7.0 (m, 4 H), 7.1 (m, 2 H), 7.4 (m, 4 H), 7.7 (m, 1 H), 8.05 (s, 1 H), 8.3 (s, 1 H), 8.6 (m, 1 H), and 10.4 (s, 1 H); MS (ESI) 455.2 (M+H)+.

reactant | N-[1-(2-oxoethyl)-1H-indazol-6-yl]-2-(4-phenoxyphenyl)acetamide | 0.05 mmol, 20 mg | O=CCN1N=CC2=CC=C(C=C12)NC(CC1=CC=C(C=C1)OC1=CC=CC=C1)=O | C23H19N3O3
reactant | cyclopentylamine | 0.10 mmol, 10 μL | C1(CCCC1)N | C5H11N
reactant | NaCNBH3 | 0.010 mmol, 1 M, 0.104 mL | [BH3-]C#N.[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | N-{1-[2-(cyclopentylamino)ethyl]-1H-indazol-6-yl}-2-(4-phenoxyphenyl)acetamide | C1(CCCC1)NCCN1N=CC2=CC=C(C=C12)NC(CC1=CC=C(C=C1)OC1=CC=CC=C1)=O | C28H30N4O2
